US07859828B2
Next, 3-nitrophthalic acid (0.1 mol) was added into a 1,2,3,4-tetramethyl imidazolinium methyl carbonate salt (0.1 mol) solution to induce a salt exchange reaction, thereby obtaining a 1,2,3,4-tetramethyl imidazolinium•3-nitrophthalate solution.

reactant | 3-nitrophthalic acid | 0.1 mol | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
reactant | 1,2,3,4-tetramethyl imidazolinium methyl carbonate salt | 0.1 mol | COC([O-])=O.C[NH+]1C(N(C(C1)C)C)C
product | 1,2,3,4-tetramethyl imidazolinium•3-nitrophthalate | C[NH+]1C(N(C(C1)C)C)C.[N+](=O)([O-])C1=C(C(C(=O)[O-])=CC=C1)C(=O)[O-] | InChI=1S/C8H5NO6.C7H16N2/c10-7(11)4-2-1-3-5(9(14)15)6(4)8(12)13;1-6-5-8(3)7(2)9(6)4/h1-3H,(H,10,11)(H,12,13);6-7H,5H2,1-4H3/p-1
